US08669271B2
4-(5-Pyrimidin-5-yl-2,3-dihydro-benzofuran-2-yl)-piperidine-1-carboxylic acid isopropyl ester
The title compound is prepared from 4-(5-bromo-2,3-dihydro-benzofuran-2-yl)-piperidine-1-carboxylic acid isopropyl ester and pyrimidine-5-boronic acid following a procedure analogous to that described in Example 1. LC (method 5): tR=1.49 min; Mass spectrum (ESI+): m/z=368 [M+H]+.

reactant | 4-(5-bromo-2,3-dihydro-benzofuran-2-yl)-piperidine-1-carboxylic acid isopropyl ester | C(C)(C)OC(=O)N1CCC(CC1)C1OC2=C(C1)C=C(C=C2)Br | C17H22BrNO3
reactant | pyrimidine-5-boronic acid | N1=CN=CC(=C1)B(O)O | C4H5BN2O2
product | 4-(5-Pyrimidin-5-yl-2,3-dihydro-benzofuran-2-yl)-piperidine-1-carboxylic acid isopropyl ester | C(C)(C)OC(=O)N1CCC(CC1)C1OC2=C(C1)C=C(C=C2)C=2C=NC=NC2 | C21H25N3O3
